US07220856B2
Preparation of (3S)-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-N-methyl-2-oxo-1H-azepine-1-acetamid
As described as example 208, (3S)-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-acetic acid, methyl amine, HATU, and diisopropylethylamine are reacted to afford the product. LC-MS 488 (M++1). 1H NMR (CD3OD) δ 7.86 (d, 1H), 7.50 (s, 1H), 7.30 (d, 1H), 6.30 (s, 1H), 4.65 (m, 1H), 4.00 (m, 2H), 3.70 (m, 5H), 3.30 (m, 5H), 2.75 (s, 3H), 1.98 (m, 2H), 1.80 (m, 2H), 1.60 (m, 2H).

reactant | (3S)-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-acetic acid | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@@H]1C(N(CCCC1)CC(=O)O)=O)Cl | C22H27ClN6O4
reactant | methyl amine | CN | CH5N
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
product | (3S)-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-N-methyl-2-oxo-1H-azepine-1-acetamid | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@@H]1C(N(CCCC1)CC(=O)NC)=O)Cl | C23H30ClN7O3
